### PR TITLE
feat(ErdosProblems): add 755

### PR DESCRIPTION
**Pull request by bengoechea**
## Summary

This PR adds Erdős Problem 755, the equilateral-triangle problem in $\mathbb{R}^6$.

- defines finite counts for unit equilateral triangles and positive-side-length equilateral triangles
- records Erdős's original unit-triangle upper-bound question as solved
- adds the stronger Clemen-Dumitrescu-Liu [CDL25b] any-size asymptotic variant
- includes the erdosproblems.com and literature references plus a small `test_dim_one` smoke statement

## Scope

This is a statement/variant addition to the Formal Conjectures corpus. It does not include a Lean proof of CDL25b; both theorem bodies remain `sorry`.

I did not add a `formal_proof using lean4` attribute because I did not find a prior Lean formalization to cite.

I checked upstream `main` before opening: there is no existing `FormalConjectures/ErdosProblems/755.lean`, and no existing `erdos_755` declaration.

## AI disclosure

Lean 4 code in this file was drafted with assistance from OpenAI Codex. The mathematical content and references are the author's own work.

## Validation

- `lake build FormalConjectures.ErdosProblems.«755»`
- `git diff --check`

### CODE REVIEW

File: FormalConjectures/ErdosProblems/755.lean [hunk 1]
```diff
@@ -0,0 +1,109 @@
...
+  (1975), 291--308.
+- [Er94b] Erdős, Paul, Some problems in number theory, combinatorics and
+  combinatorial geometry. Math. Pannon. (1994), 261--269.
+- [CDL25b] Clemen, Felix Christian, Dumitrescu, Adrian, and Liu, Dingyuan,
+  The number of regular simplices in higher dimensions. arXiv:2507.19841 (2025).
+
+### AI disclosure
+
+Lean 4 code in this file was drafted with assistance from OpenAI Codex.
+The mathematical content and references are the author's own work.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/755.lean]:
```suggestion
```

This should go into the pull request comment, not in the file

File: FormalConjectures/ErdosProblems/755.lean [hunk 2]
```diff
@@ -0,0 +1,109 @@
...
+  simp [unitEquilateralTriangleCount]
+
+/--
+**Erdős Problem 755** (solved). Erdős asked whether every `n`-point set in
+`ℝ^6` spans at most `(1 / 27 + o(1)) n^3` unit equilateral triangles.
+
+Clemen, Dumitrescu, and Liu [CDL25b] proved the stronger any-size statement
+`T_6(n) = (1 / 27 + o(1)) n^3`. The unit-triangle upper bound follows as a
+corollary, since unit equilateral triangles are a subset of equilateral
+triangles of any positive side length: `T_unit ≤ T_anysize`.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/755.lean]: let's use latex markdown instead of backticks

**Review by mo271 — APPROVED** [review]
Thanks, LGTM, just two minor nits

File: FormalConjectures/ErdosProblems/755.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+  sSup {m : ℕ | ∃ P : Finset (EuclideanSpace ℝ (Fin d)),
+    P.card = n ∧ anySizeEquilateralTriangleCount d P = m}
+
+@[category test, AMS 52]
+theorem erdos_755.test_dim_one :
+    unitEquilateralTriangleCount 1 (∅ : Finset (EuclideanSpace ℝ (Fin 1))) = 0 := by
+  simp [unitEquilateralTriangleCount]
+
+/--
+**Erdős Problem 755** (solved). Erdős asked whether every $n$-point set in
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/755.lean]:
```suggestion
Erdős asked whether every $n$-point set in
```

**Review by mo271 — APPROVED** [review]
